US05208020
Methyldithio-N-Methylcysteine (8):
A solution of N-methylcysteine (Undhein, K., & Eidem, A., 23 Acta Chem. Scandinavica 3129-3133 (1970) (1.5 g, 11.1 mmol) in H2O (20 ml) was stirred at room temperature, under an atmosphere of argon, and treated with a solution of methyl methanethiol sulfonate (3.0 ml, 29.2 mmol) in ethanol (10 ml). The reaction mixture was stirred at this temperature for two hours and then diluted with H2O (100 ml) and washed with ether (4×40 ml). The aqueous layer was acidified to pH 2 and passed through an Amberlite IRA 93 (--OH form) column. The column was washed with water and the effluent was collected and evaporated to dryness under reduced pressure to give a white solid (1.2g, 60%), mp 194°-5° C. NMR (D2O, TMS ext. standard): δ2.2(3H, s), 2.5(3H, s), 3.2(2H,d), 3.7(1H,q).

reactant | N-methylcysteine | CN[C@@H](CS)C(=O)O | C4H9NO2S
reactant | methyl methanethiol sulfonate | 29.2 mmol, 3.0 ml | CSS(=O)(=O)C | C2H6O2S2
solvent | H2O | 20 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | H2O | 100 ml | O | H2O
product | Methyldithio-N-Methylcysteine | 1.2g, 60% | CSSN([C@@H](CS)C(=O)O)C | C5H11NO2S3
